US06946577B2
Preparation of dimeric 4-isopropoxydinaphtho[2.1-d:1′,2′-f][1,3,2]dioxa-phosphepine copper(I) chloride
5 g (13.4 mmole) of 4-isopropoxydinaphtho[2.1-d:1′,2′-f][1,3,2]dioxaphosphepine (rac.-binaphthylisopropyl phosphlte) are dissolved in dichloromethane in a round-bottom flask and 0.44 g (0.45 mmole) of copper(I) chloride is added in a stream of argon. After stirring for 30 minutes the solvent is removed in vacuo.

reactant | 4-isopropoxydinaphtho[2.1-d:1′,2′-f][1,3,2]dioxaphosphepine | 13.4 mmole, 5 g | C(C)(C)OP1OC2=C(C3=C(O1)C=CC=1C=CC=CC13)C1=CC=CC=C1C=C2 | C23H19O3P
reactant | copper(I) chloride | 0.45 mmole, 0.44 g | [Cu]Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-isopropoxydinaphtho[2.1-d:1′,2′-f][1,3,2]dioxa-phosphepine copper(I) chloride | [Cu]Cl.C(C)(C)OP1OC2=C(C3=C(O1)C=CC=1C=CC=CC13)C1=CC=CC=C1C=C2 | InChI=1S/C23H19O3P.ClH.Cu/c1-15(2)24-27-25-20-13-11-16-7-3-5-9-18(16)22(20)23-19-10-6-4-8-17(19)12-14-21(23)26-27;;/h3-15H,1-2H3;1H;/q;;+1/p-1
